US08957074B2
Following general N—C coupling procedure 1, 3-(6-Amino-pyridin-3-yl)-4-oxo-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester (350 mg, 1.047 mmol) was combined with 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (337 mg, 1.151 mmol) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester (476 mg, 0.787 mmol) in 75% yield.

reactant | 3-(6-Amino-pyridin-3-yl)-4-oxo-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester | 1.047 mmol, 350 mg | C(C)(C)(C)OC(=O)N1C2CN(C(CC1COC2)=O)C=2C=NC(=CC2)N | C17H24N4O4
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 1.151 mmol, 337 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester | 0.787 mmol, 476 mg, 75% yield | C(C)(C)(C)OC(=O)N1C2CN(C(CC1COC2)=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C31H40N8O5
